US05677455
In 10 mL of isopropanol (water content: 9,500 ppm) were dissolved 457 mg (2.6 mmol.) of 2,4-dichlorobenzaldehyde and 1.0 g (2.6 mmol.) of methyl 3-[(tert-butyldimethylsilyl)oxy]-6-(dimethoxyphosphinyl)-5-oxohexanoate to give an alcoholic solution. To the alcoholic solution was added 362 mg (2.3 mmol) of potassium carbonate, and the mixture was stirred for 3 hours at room temperature (22° C.). To the resulting reaction mixture was added 40 mL of ethyl acetate, and the mixture was stirred and washed with 20 mL of water. The washing was repeated twice. The organic phase was separated, dried over anhydrous magnesium sulfate, and filtered to give a filtrate. The filtrate was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography (eluent:hexane/ethyl acetate=95/5, volume ratio) to give 1.06 g (yield: 94%) of methyl (E)-3-[(tert-butyldimethylsilyl)oxy]-7-(2,4-dichlorophenyl)-5-oxo-6-heptenoate.

reactant | 2,4-dichlorobenzaldehyde | 2.6 mmol, 457 mg | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | methyl 3-[(tert-butyldimethylsilyl)oxy]-6-(dimethoxyphosphinyl)-5-oxohexanoate | 2.6 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)OC(CC(=O)OC)CC(CP(=O)(OC)OC)=O | C15H31O7PSi
reactant | potassium carbonate | 2.3 mmol, 362 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | methyl (E)-3-[(tert-butyldimethylsilyl)oxy]-7-(2,4-dichlorophenyl)-5-oxo-6-heptenoate | 1.06 g, yield: 94% | [Si](C)(C)(C(C)(C)C)OC(CC(=O)OC)CC(\C=C\C1=C(C=C(C=C1)Cl)Cl)=O | C20H28Cl2O4Si
